US07618978B2
2-(R)-[2-(R)-(Benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-4-(5-methyl -hexanoyl)-piperazine-1-carboxylic acid tert-butyl ester
Dissolve (2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester (110 mg, 0.22 mmol) in 2.2 ml of dichloromethane and react with 5-methylhexanoic acid (28.6 mg, 0.22 mmol), EDCI (50.6 mg, 0.26 mmol), HOBT (35.6 mg, 0.26 mmol), triethylamine (0.09 ml, 0.66 mmol) and dimethylaminopyridine (2.6 mg, 0.02 mmol). Stir at room temperature overnight. Dilute with CH2Cl2, and wash with 5%NaHCO3 and saturated aqueous sodium chloride. Dry organic layers with MgSO4 and remove the solvent under reduced pressure. Subject residue to silica gel chromatography, eluting with hexanes/ethyl acetate/triethylamine 67:32:1 to obtain 103 mg (76% yield) of the desired product.

reactant | 2-(R)-[2-(R)-(benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.22 mmol, 110 mg | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C31H37N3O3
reactant | 5-methylhexanoic acid | 0.22 mmol, 28.6 mg | CC(CCCC(=O)O)C | C7H14O2
reactant | EDCI | 0.26 mmol, 50.6 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.26 mmol, 35.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 0.66 mmol, 0.09 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 0.02 mmol, 2.6 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | 2.2 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(R)-[2-(R)-(Benzhydrylidene-amino)-1-(S)-hydroxy-3-phenylpropyl]-4-(5-methyl -hexanoyl)-piperazine-1-carboxylic acid tert-butyl ester | 103 mg, 76% yield | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(CCCC(C)C)=O)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C38H49N3O4
